US05728835
3-Methyl-4-acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide
Using 4-amino-3-methyl-N-{2-[4-(4-fluorobenzoyl)piperidino]-ethyl}-N-(3-methoxyphenyl)benzamide (489.0 mg, 1.00 mmol) and acetic anhydride (0.19 ml, 2.00 mmol), the procedure of Inventive Example 94 was repeated to obtain 474.0 mg (89.3%) of the title compound in a colorless amorphous form.

reactant | 4-amino-3-methyl-N-{2-[4-(4-fluorobenzoyl)piperidino]-ethyl}-N-(3-methoxyphenyl)benzamide | 1.00 mmol, 489.0 mg | NC1=C(C=C(C(=O)N(C2=CC(=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1)C | C29H32FN3O3
reactant | acetic anhydride | 2.00 mmol, 0.19 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Methyl-4-acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide | 474.0 mg, 89.3% | CC=1C=C(C(=O)N(C2=CC(=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=CC1NC(C)=O | C31H34FN3O4
